US04906621
A solution of 6 g of cis 1-ethoxycarbonyl-2-ethoxycarbonylpyrrolidine-3-ethanol in 75 ml of methylene chloride containing 7.3 ml of diisopropylethylamine, to which is added 5.1 ml of 85% benzyloxymethyl chloride, is stirred 31/2 hours at room temperature. The solution is washed with water and saturated aqueous sodium bicarbonate. The solution is then dried over sodium sulfate, filtered, concentrated and purified by flash chromatography using ethyl acetate/hexane (1:4) to yield cis ethyl 1-ethoxycarbonyl-3-[2-(benzyloxymethoxy)-ethyl]-pyrrolidine-2-carboxylate.

reactant | cis 1-ethoxycarbonyl-2-ethoxycarbonylpyrrolidine-3-ethanol | 6 g | C(C)OC(=O)N1[C@H]([C@H](CC1)CCO)C(=O)OCC | C12H21NO5
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyloxymethyl chloride | 5.1 ml | C(C1=CC=CC=C1)OCCl | C8H9ClO
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
product | cis ethyl 1-ethoxycarbonyl-3-[2-(benzyloxymethoxy)-ethyl]-pyrrolidine-2-carboxylate | C(C)OC(=O)N1[C@H]([C@H](CC1)CCOCOCC1=CC=CC=C1)C(=O)OCC | C20H29NO6
